Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O=C(O[OH:1])c1cccc(Cl)c1.[CH3:2][S:3][CH2:4][c:5]1[cH:6][c:7]([F:8])[cH:9][c:10]2[c:11]([CH:12]([CH2:13][CH2:14][C:15]#[N:16])[c:17]3[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]3[Cl:24])[cH:25][nH:26][c:27]12>>[O:1]=[S:3]([CH3:2])[CH2:4][c:5]1[cH:6][c:7]([F:8])[cH:9][c:10]2[c:11]([CH:12]([CH2:13][CH2:14][C:15]#[N:16])[c:17]3[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]3[Cl:24])[cH:25][nH:26][c:27]12,[CH3:2][S:3][CH2:4][c:5]1[cH:6][c:7]([F:8])[cH:9][c:10]2[c:11]([CH:12]([CH2:13][CH2:14][C:15]#[N:16])[c:17]3[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]3[Cl:24])[cH:25][nH:26][c:27]12.[O:202]=[C:201]([O:101][OH:1])c1cccc(Cl)c1>>[O:1]=[S:3]([CH3:2])[CH2:4][c:5]1[cH:6][c:7]([F:8])[cH:9][c:10]2[c:11]([CH:12]([CH2:13][CH2:14][C:15]#[N:16])[c:17]3[cH:18][cH:19][c:20]([Cl:21])[cH:22][c:23]3[Cl:24])[cH:25][nH:26][c:27]12,sulfide_oxidation,"[(3, 1), ([1, 101], [101, 201]), ([201, 202], 1.1), ([1.1, 1], 1), (1, [1, 3])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([O:2][CH2:3][CH3:4])=[O:5].[CH3:6][CH2:7][O:8][C:9](=[O:10])[CH2:11][O:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[O:19][c:20]1[cH:21][c:22]([NH2:23])[c:24]([F:25])[cH:26][c:27]1[Cl:28]>>[C:1]([O:2][CH2:3][CH3:4])(=[O:5])[NH:23][c:22]1[cH:21][c:20]([O:19][c:18]2[c:13]([O:12][CH2:11][C:9]([O:8][CH2:7][CH3:6])=[O:10])[cH:14][cH:15][cH:16][cH:17]2)[c:27]([Cl:28])[cH:26][c:24]1[F:25],[CH3:6][CH2:7][O:8][C:9](=[O:10])[CH2:11][O:12][c:13]1[cH:14][cH:15][cH:16][cH:17][c:18]1[O:19][c:20]1[cH:21][c:22]([NH2:23])[c:24]([F:25])[cH:26][c:27]1[Cl:28].[Cl:101][C:1]([O:2][CH2:3][CH3:4])=[O:5]>>[C:1]([O:2][CH2:3][CH3:4])(=[O:5])[NH:23][c:22]1[cH:21][c:20]([O:19][c:18]2[c:13]([O:12][CH2:11][C:9]([O:8][CH2:7][CH3:6])=[O:10])[cH:14][cH:15][cH:16][cH:17]2)[c:27]([Cl:28])[cH:26][c:24]1[F:25],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(23, 1), ([1, 5], 5), (5, [5, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CN(C)[CH:1]=[O:2].[CH3:3][CH2:4][N:5]([CH2:6][CH3:7])[c:8]1[cH:9][cH:10][c:11]2[c:12]([cH:13]1)[o:14][c:15](=[O:16])[cH:17][cH:18]2>>[CH:1](=[O:2])[c:17]1[c:15](=[O:16])[o:14][c:12]2[c:11]([cH:10][cH:9][c:8]([N:5]([CH2:4][CH3:3])[CH2:6][CH3:7])[cH:13]2)[cH:18]1,[CH3:3][CH2:4][N:5]([CH2:6][CH3:7])[c:8]1[cH:9][cH:10][c:11]2[c:12]([cH:13]1)[o:14][c:15](=[O:16])[cH:17][cH:18]2.C[N:101](C)[CH:1]=[O:2].[O:301]=[P:302](Cl)(Cl)[Cl:303].[OH2:304]>>[CH:1](=[O:2])[c:17]1[c:15](=[O:16])[o:14][c:12]2[c:11]([cH:10][cH:9][c:8]([N:5]([CH2:4][CH3:3])[CH2:6][CH3:7])[cH:13]2)[cH:18]1,Vilsmeier_formylation,"[(101, [101, 1]), ([1, 2], 302), ([302, 301], 301), (301, [301, 302]), ([302, 303], 303), (303, 1), ([1, 101], 101), (101, [101, 1]), ([1, 2], [2, 302]), ([302, 301], 301), ([15, 17], 1), ([1, 101], 101), (301, 17.1), ([17.1, 17], [17, 15]), (101, [101, 1]), ([1, 303], 303), (304, 1), ([1, 101], 101), (303, 304.1), ([304.1, 304], [304, 1]), ([1, 101], 101), (101, 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][C@@H:2]1[CH2:3][N:4]2[c:5]3[c:6]([n:7][c:8](-[c:9]4[cH:10][cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]4)[cH:19][cH:20]3)[N:21]([C:22]([NH:23][c:24]3[n:25][c:26]([CH3:27])[c:28]([CH3:29])[s:30]3)=[O:31])[C@@H:32]1[CH2:33]2>>[OH:1][C@@H:2]1[CH2:3][N:4]2[c:5]3[c:6]([n:7][c:8](-[c:9]4[cH:10][cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]4)[cH:19][cH:20]3)[N:21]([C:22]([NH:23][c:24]3[n:25][c:26]([CH3:27])[c:28]([CH3:29])[s:30]3)=[O:31])[C@@H:32]1[CH2:33]2,CC(C)(C)[Si:101](C)(C)[O:1][C@@H:2]1[CH2:3][N:4]2[c:5]3[c:6]([n:7][c:8](-[c:9]4[cH:10][cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]4)[cH:19][cH:20]3)[N:21]([C:22]([NH:23][c:24]3[n:25][c:26]([CH3:27])[c:28]([CH3:29])[s:30]3)=[O:31])[C@@H:32]1[CH2:33]2.[F-:301]>>[OH:1][C@@H:2]1[CH2:3][N:4]2[c:5]3[c:6]([n:7][c:8](-[c:9]4[cH:10][cH:11][cH:12][c:13]([C:14]([F:15])([F:16])[F:17])[cH:18]4)[cH:19][cH:20]3)[N:21]([C:22]([NH:23][c:24]3[n:25][c:26]([CH3:27])[c:28]([CH3:29])[s:30]3)=[O:31])[C@@H:32]1[CH2:33]2,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
